US05206259
The mixture of 4-bromothioanisole (10.0 g, 49.2 mM), ethyl 4-hydroxybenzoate (8.17 g, 49.2 mM), potassium carbonate (6.80 g, 49.2 mM), copper (0.5 g) and xylene (300 ml) was stirred for 24 h under reflux. The mixture was cooled to the room temperature and poured into water. The mixture was filtered through celite, and the toluene solution was washed with water and brine, dried with magnesium sulfate, and concentrated in vacuo. The residue was chromatographed over silica gel to give ethyl 4-(4-methylthiophenoxy)benzoate (4.86 g, 36%) as colorless crystals, m.p. 46.4° C.

reactant | 4-bromothioanisole | 49.2 mM, 10.0 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | ethyl 4-hydroxybenzoate | 49.2 mM, 8.17 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 49.2 mM, 6.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 0.5 g | [Cu] | Cu
solvent | water | O | H2O
product | ethyl 4-(4-methylthiophenoxy)benzoate | 4.86 g, 36% | CC1=CC=C(SC2=CC=C(C(=O)OCC)C=C2)C=C1 | C16H16O2S
